US07960394B2
(2) Production of 4-amino-N,5-dimethylnicotinamide
Methyl 4-amino-5-methylnicotinate (100 mg, 0.60 mmol) and methylamine (2.0 M in MeOH, 2 mL) were mixed, and stirred under heat at 100° C. in a sealed tube for 24 hours. The solvent was evaporated off under reduced pressure, and the resulting residue was purified through silica gel column chromatography (chloroform/methanol=9/1) to obtain the intended compound (91 mg, 91%) as a yellow solid.

reactant | Methyl 4-amino-5-methylnicotinate | 0.60 mmol, 100 mg | NC1=C(C=NC=C1C(=O)OC)C | C8H10N2O2
reactant | methylamine | 2.0 M, 2 mL | CN | CH5N
product | 4-amino-N,5-dimethylnicotinamide | 91 mg, 91% | NC1=C(C=NC=C1C(=O)NC)C | C8H11N3O
